US07572805B2
(3aR,9bS)-6-Chloro-8-ethyl-4-propyl-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride
Following the procedures described in Example 24, Parts A and B, except that iodopropane was used instead of iodomethane, (3aR,9bS)-tert-butyl 6-chloro-5-oxo-8-ethyl-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate, the first eluting compound from the OD column separation of N-BOC intermediate enantiomers in Example 29 and 30 (the first eluting compound gave Example 29), was converted to the title compound of Example 42 as an off-white solid. 1H NMR (CD3OD): δ 7.37 (s, 1H), 7.32 (s, 1H), 4.48 (q, 1H, J=6.8 Hz), 3.98-3.92 (m, 1H), 3.80-3.69 (overlapping m, 4H), 3.41-3.35 (m, 1H), 3.35-3.30 (m, 1H), 2.71 (q, 2H, J=7.5 Hz), 1.72-1.60 (m, 2H), 1.27 (t, 3H, J=7.7 Hz), 0.96 (t, 3H, J=7.4 Hz). LRMS (ESI): 293.2/295.2 (M+H)+.

reactant | iodopropane | ICCC | C3H7I
reactant | (3aR,9bS)-tert-butyl 6-chloro-5-oxo-8-ethyl-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | ClC1=CC(=CC=2[C@@H]3[C@@H](NC(C12)=O)CN(C3)C(=O)OC(C)(C)C)CC | C18H23ClN2O3
product | (3aR,9bS)-6-Chloro-8-ethyl-4-propyl-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride | Cl.ClC1=CC(=CC=2[C@@H]3[C@@H](N(C(C12)=O)CCC)CNC3)CC | InChI=1S/C16H21ClN2O.ClH/c1-3-5-19-14-9-18-8-12(14)11-6-10(4-2)7-13(17)15(11)16(19)20;/h6-7,12,14,18H,3-5,8-9H2,1-2H3;1H/t12-,14+;/m1./s1
